US04696927
A mixture of ethyl 3-[(4-bromobutyl)aminocarbonylamino]-3-methylbutanoate (3.21 g), 1-(2-pyrimidinyl)piperazine (1.64 g), potassium carbonate (1.38 g) and dimethylformamide (50 ml) is heated at 100° C. for 3 hours, left overnight at room temperature, filtered, and evaporated to dryness. The residue is chromatographed on silica gel using a mixture of ethyl acetate-ethanol (90:10) as the eluent to yield 2-[4-[4-(2-pyrimidinyl)-1-piperazinyl]butylimino]-tetrahydro-4,4-dimethyl-6H-1,3-oxazine-6-one, m.p. 124°-6° C. when crystallized from aqueous methanol (Rf 0.3) and 1-[4-[4-(2-pyrimidinyl)-1-piperazinyl]butyl]tetrahydro-6,6-dimethylpyrimidine-2,4-dione, as an oil (Rf 0.2).

reactant | ethyl 3-[(4-bromobutyl)aminocarbonylamino]-3-methylbutanoate | 3.21 g | BrCCCCNC(=O)NC(CC(=O)OCC)(C)C | C12H23BrN2O3
reactant | 1-(2-pyrimidinyl)piperazine | 1.64 g | N1=C(N=CC=C1)N1CCNCC1 | C8H12N4
reactant | potassium carbonate | 1.38 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 2-[4-[4-(2-pyrimidinyl)-1-piperazinyl]butylimino]-tetrahydro-4,4-dimethyl-6H-1,3-oxazine-6-one | N1=C(N=CC=C1)N1CCN(CC1)CCCCN=C1OC(CC(N1)(C)C)=O | C18H28N6O2
